US08470859B2
5-chloro-1-(3-fluoro-5-methylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
A solution of 2-amino-5-chloronicotinamide (150 mg) and 1-(bromomethyl)-3-fluoro-5-methylbenzene (270 mg) in DMF (3 ml) was stirred at 100° C. for 24 hr. After cooling to room temperature, ethyl acetate was added, and the precipitated crystals were filtered and recrystallized to give the title compound (139 mg).

reactant | 2-amino-5-chloronicotinamide | 150 mg | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 1-(bromomethyl)-3-fluoro-5-methylbenzene | 270 mg | BrCC1=CC(=CC(=C1)C)F | C8H8BrF
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-(3-fluoro-5-methylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 139 mg | Br.ClC=1C=C(C(N(C1)CC1=CC(=CC(=C1)C)F)=N)C(=O)N | InChI=1S/C14H13ClFN3O.BrH/c1-8-2-9(4-11(16)3-8)6-19-7-10(15)5-12(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
